US07119122B2
(2-Fluoro-5-methoxybenzyl)-dimethylamine (1.51 g, 8.24 mmol) was heated to reflux in 30% hydrogen bromide/acetic acid (10 mL) for 17 h. The cooled reaction mixture was triturated and decanted with successive portions of diethyl ether (4×), then triturated with diethyl ether overnight. The solid was collected by filtration, washed with ether and dried to give 3-dimethylaminomethyl-4-fluorophenol hydrobromide (1.43 g, 69%) as a tan solid.

reactant | (2-Fluoro-5-methoxybenzyl)-dimethylamine | 8.24 mmol, 1.51 g | FC1=C(CN(C)C)C=C(C=C1)OC | C10H14FNO
reactant | hydrogen bromide acetic acid | 10 mL | Br.C(C)(=O)O
product | 3-dimethylaminomethyl-4-fluorophenol hydrobromide | 1.43 g, 69% | Br.CN(C)CC=1C=C(C=CC1F)O | InChI=1S/C9H12FNO.BrH/c1-11(2)6-7-5-8(12)3-4-9(7)10;/h3-5,12H,6H2,1-2H3;1H
